US04814344
3-(1H-Imidazol-1-yl)-1-(2-methyl-1H-indol-3-yl)-1-propanone
3-(Dimethylamino)-1-(2-methyl-1H-indol-3-yl)-1-propanone was converted to the methiodide (1.50 g) which was then reacted with imidazole (2.67 g) to give a solid which was crystallised from methanol to give the title compound (0.65 g), m.p. 196°-197°; λmax (EtOH) 244 (ε12,920), λmax 268.5 nm (ε10,460), λmax 302.5 (ε11,400).

reactant | 3-(Dimethylamino)-1-(2-methyl-1H-indol-3-yl)-1-propanone | CN(CCC(=O)C1=C(NC2=CC=CC=C12)C)C | C14H18N2O
reactant | imidazole | 2.67 g | N1C=NC=C1 | C3H4N2
product | 3-(1H-Imidazol-1-yl)-1-(2-methyl-1H-indol-3-yl)-1-propanone | 0.65 g | N1(C=NC=C1)CCC(=O)C1=C(NC2=CC=CC=C12)C | C15H15N3O
